US05629264
Step 1: Preparation of 6-ethyl-5-methyl-4-hydroxy-2-phenyl-3,4,5,6-tetrahydropyrimidine
To an ice cooled mixture of 19.98 g (16.6 mmol) of benzamidine in 80 mL of acetone, was added dropwise over two hours, a solution of 16.35g (16.6 mmol) 2-methyl-2-pentenal and 0.055 g 1,4-hydroquinone, in acetone. The mixture was left to stir cold and warm to room temperature over 20 hours. The product was isolated by vacuum filtration and was washed with a minimal amount of acetone. 15.6 g (44%) of 6-ethyl-5-methyl-4-hydroxy-2-phenyl-3,4,5,6-tetrahydropyrimidine was collected, as a white solid.

reactant | benzamidine | 16.6 mmol, 19.98 g | C(C1=CC=CC=C1)(=N)N | C7H8N2
reactant | 2-methyl-2-pentenal | 16.6 mmol, 16.35g | CC(C=O)=CCC | C6H10O
solvent | acetone | 80 mL | CC(=O)C | C3H6O
product | 6-ethyl-5-methyl-4-hydroxy-2-phenyl-3,4,5,6-tetrahydropyrimidine | C(C)C1C(C(NC(=N1)C1=CC=CC=C1)O)C | C13H18N2O
